* NGSPICE file created from nbias-gen.ext - technology: gf180mcuD

.subckt nfet_06v0_7KPYRP a_n200_n218# a_n288_n174# a_200_n174# a_n432_n350#
X0 a_200_n174# a_n200_n218# a_n288_n174# a_n432_n350# nfet_06v0 ad=0.66p pd=3.88u as=0.66p ps=3.88u w=1.5u l=2u
.ends

.subckt nbias-gen IBIAS VSS
XM1 IBIAS VSS IBIAS VSS nfet_06v0_7KPYRP
.ends

